US05554783
A. Methyl 3-(Methylmethoxy)-5-isoxazole Carboxylate
A solution of 2.0 g (14.0 mmol) of methyl 3-hydroxy-5-isoxazole carboxylate and 29.2 ml (16.8 mmol) of N,N-diisopropylethylamine in 20 ml of tetrahydrofuran was treated with 1.27 ml of chloromethyl methyl ether. After being stirred at ambient temperature for 2 h, the solution was diluted with dichloromethane, washed with water, dried over MgSO4, and concentrated in vacuo. Silica gel chromatography of the residue using 10% methanol in dichloromethane provided 129.6 mg (78%) of the desired compound as a white solid. 1H NMR (CDCl3) δ3.57 (s, 3H), 3.96 (s, 3H), 5.37 (s, 2H), 6.64 (s, 1H).

reactant | methyl 3-hydroxy-5-isoxazole carboxylate | 14.0 mmol, 2.0 g | OC1=NOC(=C1)C(=O)OC | C5H5NO4
reactant | N,N-diisopropylethylamine | 16.8 mmol, 29.2 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 1.27 ml | COCCl | C2H5ClO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl 3-(Methylmethoxy)-5-isoxazole Carboxylate | 129.6 mg, 78% | CCOC1=NOC(=C1)C(=O)OC | C7H9NO4
